US08877944B2
2-[1-(4,4-Difluorocyclohexyl)piperidin-4-yl]-5-fluoro-3-oxo-2,3-dihydro-1H-isoindole-4-carbonitrile
To a solution of methyl 2-cyano-3-fluoro-6-methylbenzoate (208 mg, 1.07 mmol) in methyl pivalate (2 mL), N-bromosuccinimide (310 mg, 1.74 mmol) and benzoylperoxide (20 mg, 0.097 mmol) were added. The reaction mixture was stirred at 85° C. under nitrogen atmosphere for 3 hours. Crude was filtered on Gooch and washed with toluene. Volatiles were evaporated and the residue was dissolved in acetonitrile (3 mL). Triethylamine (0.41 mL, 2.9 mmol) and 1-(4,4-difluorocyclohexyl)-piperidin-4-ylamine (280 mg, 0.97 mmol) were added and the reaction mixture was stirred at 90° C. for 3 hours. Crude was diluted with dichloromethane and washed with 15% ammonium hydroxide Organic phase was dried over sodium sulfate, filtered and evaporated. Column chromatography (dichloromethane/ethanol:95/5) afforded title compound (222 mg, 60% yield).

reactant | methyl 2-cyano-3-fluoro-6-methylbenzoate | 1.07 mmol, 208 mg | C(#N)C1=C(C(=O)OC)C(=CC=C1F)C | C10H8FNO2
reactant | N-bromosuccinimide | 1.74 mmol, 310 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoylperoxide | 0.097 mmol, 20 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | Triethylamine | 2.9 mmol, 0.41 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(4,4-difluorocyclohexyl)-piperidin-4-ylamine | 0.97 mmol, 280 mg | FC1(CCC(CC1)N1CCC(CC1)N)F | C11H20F2N2
solvent | methyl pivalate | 2 mL | C(C(C)(C)C)(=O)OC | C6H12O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 2-[1-(4,4-Difluorocyclohexyl)piperidin-4-yl]-5-fluoro-3-oxo-2,3-dihydro-1H-isoindole-4-carbonitrile | 222 mg, 60% yield | FC1(CCC(CC1)N1CCC(CC1)N1CC=2C=CC(=C(C2C1=O)C#N)F)F | C20H22F3N3O
